US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-(piperidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, piperidine, PFTU, and diisopropylethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 4.45 minutes; C22H22Cl2N4O2 (445.35); mass spectrum: (M−H)−=444/446/448 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorine | ClCl | Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]4-(piperidin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CCCCC1 | C22H22Cl2N4O2
